US07465795B2
4-amino-8-(3,4-dimethoxyphenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 3,4-dimethoxyphenyl boronic acid (148 mg, 0.97 mmol) were reacted to afford the title compound (91 mg, 77.7% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.58 (br, 1H), 7.76-7.88 (m, 2H), 7.71 (t, J=7.7 Hz, 1H), 7.29 (m, overlapped with CHCl3), 7.23 (d, J=1.9 Hz, 1H), 7.02 (d, J =8.3 Hz, 1H), 3.95 (s, 3H), 3.93 (s, 3H), 3.47 (q, J=6.7 Hz, 2H), 1.68 (m, J=7.2 Hz, 2H), 1.01 (t, J=7.4 Hz, 3H) MS APCI, m/z=367 (M+H) HPLC 1.78 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3,4-dimethoxyphenyl boronic acid | 0.97 mmol, 148 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | 4-amino-8-(3,4-dimethoxyphenyl)-N-propyl-cinnoline-3-carboxamide | 91 mg, 77.7% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=C(C=C1)OC)OC)C(=O)NCCC | C20H22N4O3
